US05091432
Synthesis of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-(2-aminoethyl)propanamide (AIT-0058)
1.500 g (25.0 mmol) of ethylenediamine was stirred at room temperature with 250 mg (1.06 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0027) for one hour. The solution was treated with 4 ml acetonitrile and 20 ml of ether with stirring. Upon filtration and washing with ether, this yielded 245 mg of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-(2-aminoethyl)propanamide (AIT-0058) as a slightly yellow solid. Yield: 92%.

reactant | ethylenediamine | 25.0 mmol, 1.500 g | C(CN)N | C2H8N2
reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 1.06 mmol, 250 mg | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
reactant | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-(2-aminoethyl)propanamide | Yield: 92% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCN | C10H14N6O2
